US07132533B2
2-Methyl-3,5-dinitro-benzoic acid (100 g, 0.442 mol) was dissolved in anhydrous N,N-dimethylformamide (1 M, 400 mL). N,N-Dimethylformamide dimethyl acetal (188 mL, 1.33 mol) was added under an argon atmosphere over 10 min at ambient temperature with stirring. The mixture was heated at 110° C. for 5 hours behind a shield, and cooled at ambient temperature. N,N-Dimethylformamide and the unreacted N,N-dimethylformamide dimethyl acetal were removed under reduced pressure (35° C., c.a. 5 mm Hg). Toluene (˜50 mL) was added and the volatiles removed under vacuum. 2-(2-Dimethylamino-vinyl)-3,5-dinitro-benzoic acid methyl ester, isolated as a dark red solid, was mixed with anhydrous methanol (880 mL) and chlorotrimethylsilane (140 mL, 1.10 mol) was added over 10 min. The solution was heated at reflux (oil bath 67–70° C.) under argon for 20 hours, cooled to ambient temperature, and the volume of the mixture was reduced under vaccuum to approximately 100 mL. The precipitated solid was collected by filtration and washed with cold methanol (100 mL). The dark brown solid was dried under vacuum, triturated with acetone (100 mL), again collected by filtration and washed with diethyl ether (150 mL) to afford Intermediate 2(c) (79 g). The mother liquor from the first precipitation and the various triturations were combined and concentrated. Additional Intermediate 2(c) (21 g) was then recrystallized from cyclohexane/ethyl acetate (9:1) providing a second batch. Again the resulting mother liquor was reduced in vacuo and a third batch of Intermediate 2(c) (4 g) was recrystallized from acetone/H2O (6:4). The combined yield for all three batches of Intermediate 2(c) (104 g) was 75%.

reactant | 2-Methyl-3,5-dinitro-benzoic acid | 0.442 mol, 100 g | CC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O6
reactant | N,N-Dimethylformamide dimethyl acetal | 1.33 mol, 188 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide | 1 M, 400 mL | CN(C=O)C | C3H7NO
product | 2-(2-Dimethylamino-vinyl)-3,5-dinitro-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])C=CN(C)C)=O | C12H13N3O6
